datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:74]1[C:61](=[O:62])[N:10]=[C:11]([O-:12])[CH:72]=[CH:73]1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([N:10]1[C:11](=[O:12])[CH:72]=[CH:73][N:74](C)[C:61]1=[O:62])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([CH:20]=[O:21])C=C1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>C1=CC=C([CH:20]([H:10])[O-:21])C=C1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20;20,21=21"
"C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH:13]=[CH:12][CH:11]2[H:10].O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH+:13][CH:12]=[CH:11]2.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.C[Si](C)(C)[C:11](C)=[CH2:10]>>C[Si](C)(C)[C+:11](C)[CH2:10][CH:20]1CC[O:33][C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>COC1=CC=C([C:11]([CH2:10][C:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12"
CC[NH:10]CC.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC[NH+:10](CC)[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CC2)[CH:45]=[CH:46]1 10=20
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CCC[NH2:10].Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CCC[NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10=20
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20"
"CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[N:72](CC)[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[S:20]C(F)(F)F)[S:62]C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(CN2CC[N:14]3CCN(CC4=CC=CC=C4)[C:62]4=[CH:61][N:10]=[CH:11][C:12]2=[C:13]34)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[C:12]2N(CC3=CC=CC=C3)CC[N+:14]3=[C:13]2[C:62](=[CH:61]1)N(CC1=CC=CC=C1)CC3)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34].O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])=[CH:62]1 10=20;20,21=21"
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[CH:10]([N+:11]#[N:12])[C:61]3=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
